US07186716B2
5-[(2-chloropyridin-3-yl)carbonyl]-1H-pyrrole-3-sulfonyl chloride (500 mg, 1.64 mmol), Na2SO3 (413 mg, 3.28 mmol), Na2HPO4 (233 mg, 1.64 mmol) were mixed in 4 mL of water and heated to 60° C. overnight (16 hour). The initial creamy suspension became clear and then cloudy. A solution of 4-chlorobenzyl bromide (337 mg, 1.64 mmol) in acetone (4 mL) was added to the reaction solution dropwise with stirring. The mixture was stirred at 60° C. for 4 hour and then cooled down to room temperature. Quenched with 4 mL of water and stirred for another 1 hour. Filtered and washed with water and acetone to afford the product, {4-[(4-chlorobenzyl)sulfonyl]-1H-pyrrol-2-yl}(2-chloropyridin-3-yl)methanone as white solid 646 mg (90% yield).

reactant | 5-[(2-chloropyridin-3-yl)carbonyl]-1H-pyrrole-3-sulfonyl chloride | 1.64 mmol, 500 mg | ClC1=NC=CC=C1C(=O)C1=CC(=CN1)S(=O)(=O)Cl | C10H6Cl2N2O3S
reactant | Na2SO3 | 3.28 mmol, 413 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | 4-chlorobenzyl bromide | 1.64 mmol, 337 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | water | 4 mL | O | H2O
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | {4-[(4-chlorobenzyl)sulfonyl]-1H-pyrrol-2-yl}(2-chloropyridin-3-yl)methanone | 646 mg, 90% yield | ClC1=CC=C(CS(=O)(=O)C=2C=C(NC2)C(=O)C=2C(=NC=CC2)Cl)C=C1 | C17H12Cl2N2O3S
